US07005437B2
a) 3-methyl-4-(pyrrolidin-1-yl-carbonyl)-bromobenzene
Prepared analogously to Example 2a from 4-bromo-2-methylbenzoic acid, pyrrolidine, tBtU and N-ethyl-diisopropylamine in tetrahydrofuran/water 9:1

reactant | 4-bromo-2-methylbenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | tBtU | CCCCNC(=S)N(CCCC)CCCC | C13H28N2S
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran water | O1CCCC1.O
product | 3-methyl-4-(pyrrolidin-1-yl-carbonyl)-bromobenzene | CC=1C=C(C=CC1C(=O)N1CCCC1)Br | C12H14BrNO
